US05712300
CDI (162 mg) is added to a solution of α-[2-[[(4-methylphenyl)sulfonyl]amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid (453 mg) and CH2Cl2 (5.0 mL). The solution is stirred for 1 hour at room temperature and then O-benzylhydroxylamine hydrochloride (192 mg) and 4-methylmorpholine (0.13 mL) are added. The solution is stirred for 16 h at room temperature. The solution is diluted with 60 mL of EtOAc which is washed with 10% HCl, brine, dried (MgSO4), filtered, and concentrated. Purification by flash chromatography (1:1 hexane:EtOAc) provides a lactam intermediate with no evidence of O-benzylhydroxylamine incorporation:

reactant | CDI | 162 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | α-[2-[[(4-methylphenyl)sulfonyl]amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid | 453 mg | CC1=CC=C(C=C1)S(=O)(=O)NCCC(C(=O)O)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C27H36N2O5S
reactant | O-benzylhydroxylamine hydrochloride | 192 mg | Cl.C(C1=CC=CC=C1)ON
reactant | 4-methylmorpholine | 0.13 mL | CN1CCOCC1 | C5H11NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
